US06787652B1
2-[3,5-Dichloro-4-[4-methoxy-3-(piperidine-1-sulfonyl)-phenoxy]-phenyl]-2H-[1,2,4]triazine-3,5-dione
To a stirred solution of 2-[3,5-dichloro-4-(3-chlorosulfonyl-4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione (0.7 g) in dimethylformamide (8 mL) was added piperidine (0.4 mL). After 1 h, the reaction was diluted in diethyl ether, washed with 1N hydrochloric acid, brine, dried (Na2SO4) and concentrated in vacuo to a solid. Recrystallization from diethyl ether/petroleum ether afforded the title compound of Step B, 0.5 g. MS Calc.:527.4 Found:527.0.

reactant | 2-[3,5-dichloro-4-(3-chlorosulfonyl-4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | 0.7 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)S(=O)(=O)Cl)Cl)N1N=CC(NC1=O)=O | C16H10Cl3N3O6S
reactant | piperidine | 0.4 mL | N1CCCCC1 | C5H11N
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[3,5-Dichloro-4-[4-methoxy-3-(piperidine-1-sulfonyl)-phenoxy]-phenyl]-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)S(=O)(=O)N1CCCCC1)Cl)N1N=CC(NC1=O)=O | C21H20Cl2N4O6S
